US04695575
To a stirred mixture of 5.1 parts of 4-[[3-(2-furanylmethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidineethanamine and 270 parts of tetrahydrofuran was added dropwise a solution of 3.8 parts of ethyl 2-isothiocyanatobenzoate in tetrahydrofuran. Upon completion, stirring was continued for 1 hour. The reaction mixture was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (97:3 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanone. The product was filtered off and dried, yielding 1.4 parts (18.6%) of 3-[2-[4-[[3-(2-furanylmethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidinyl]ethyl]-2,3-dihydro-2-thioxo-4(1H)-quinazolinone; mp. 192.0° C. (492).

reactant | 4-[[3-(2-furanylmethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidineethanamine | O1C(=CC=C1)CN1C(=NC=2C1=NC=CC2)CC2CCN(CC2)CCN | C19H25N5O
reactant | ethyl 2-isothiocyanatobenzoate | N(=C=S)C1=C(C(=O)OCC)C=CC=C1 | C10H9NO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[2-[4-[[3-(2-furanylmethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidinyl]ethyl]-2,3-dihydro-2-thioxo-4(1H)-quinazolinone | 18.6% | O1C(=CC=C1)CN1C(=NC=2C1=NC=CC2)CC2CCN(CC2)CCN2C(NC1=CC=CC=C1C2=O)=S | C27H28N6O2S
